US03994890
By the procedure similar to that described in Example 1, 3-phenyl-5-methylindazole (4.17 g) and piperidinopropyl chloride hydrochloride were treated to obtain 5.0 g of 1-piperidinopropyl-3-phenyl-5-methylindazole hydrochloride (m.p. 222°-223° C).

reactant | 3-phenyl-5-methylindazole | 4.17 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)C | C14H12N2
reactant | piperidinopropyl chloride hydrochloride | Cl.N1(CCCCC1)CCCCl
product | 1-piperidinopropyl-3-phenyl-5-methylindazole hydrochloride | 5.0 g | Cl.N1(CCCCC1)C(CC)C1=C2C(=NNC2=CC=C1C)C1=CC=CC=C1 | InChI=1S/C22H27N3.ClH/c1-3-19(25-14-8-5-9-15-25)20-16(2)12-13-18-21(20)22(24-23-18)17-10-6-4-7-11-17;/h4,6-7,10-13,19H,3,5,8-9,14-15H2,1-2H3,(H,23,24);1H
